US07737166B2
N-(2-Cyano-5-fluoro-4-iodo-6-methoxy-3-methylphenyl)-2,2,2-trifluoroacetamide (I-35)
Under nitrogen atmosphere, triethylamine (7.0 ml, 50.2 mmol) was added to a tetrahydrofuran (90 ml) solution of 2-amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzamide (I-33) (3.7 g, 11.4 mmol), with cooling in a salt ice water bath, a tetrahydrofuran (30 ml) solution of trifluoroacetic acid anhydride (4.2 ml, 29.6 mmol) was dropwise added, taking 15 minutes, followed by stirring for 16 hours and a half with gradually heating up to room temperature. The reaction liquid was diluted with ethyl acetate, washed with saturated brine, 1 N hydrochloric acid, saturated brine in that order, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (10:1) was concentrated under reduced pressure, the residue was suspended in hexane, filtered followed by drying to obtain the entitled compound (2.73 g, 60%) as a white solid.

reactant | triethylamine | 50.2 mmol, 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
reactant | 2-amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzamide | 11.4 mmol, 3.7 g | NC1=C(C(=O)N)C(=C(C(=C1OC)F)I)C | C9H10FIN2O2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | trifluoroacetic acid anhydride | 29.6 mmol, 4.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Cyano-5-fluoro-4-iodo-6-methoxy-3-methylphenyl)-2,2,2-trifluoroacetamide | 2.73 g, 60% | C(#N)C1=C(C(=C(C(=C1C)I)F)OC)NC(C(F)(F)F)=O | C11H7F4IN2O2
